US05776963
1-[4-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)1-piperidinyl]ethoxy]-3-methoxyphenyl]ethanone
A stirred mixture of 6-fluoro-3(4-piperidinyl)-1,2 benzisoxazole hydrochloride (5.1 g, 20 mmol), K2CO3 (5.2 g), 1-[4-(2chloroethoxy)-3-methoxyphenyl]ethanone (5.0 g, 1022 mmol), and dimethylformamide (90 ml) was heated at 90 f° C. or 16 hours. The reaction was poured into water, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate was washed (water), dried (MgSO4) and concentrated to afford 7.4 of a yellow solid. The solid was chromatographed on a Waters Prep LC 500 utilizing dichloromethane/methanol (4%) as eluent, and subsequent concentration of the appropriate fraction afforded 4.0 g of a yellow solid. The solid was recrystallized from ethyl alcohol to yield 3.1 g (38%) of 1-[4-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperindyl]ethoxy]-3-methoxyphenyl]ethanone, as slightly yellow flakes, m.p.=132°-134° C.

reactant | 6-fluoro-3(4-piperidinyl)-1,2 benzisoxazole hydrochloride | 20 mmol, 5.1 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | K2CO3 | 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(2chloroethoxy)-3-methoxyphenyl]ethanone | 1022 mmol, 5.0 g | ClCCOC1=C(C=C(C=C1)C(C)=O)OC | C11H13ClO3
reactant | dimethylformamide | 90 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)1-piperidinyl]ethoxy]-3-methoxyphenyl]ethanone | 4.0 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCOC2=C(C=C(C=C2)C(C)=O)OC)C=C1 | C23H25FN2O4
